US06887889B2
To a solution of crude 1-(3-chloro-4-fluorophenyl)ureido-6-bromo-1′-benzyloxycarbonyl-spiro[indoline-3,4′-piperidine] (˜0.27 mmol) and Pd(PPh3)4 (0.011 g, 0.030 mmol, 10 mol %) in degassed toluene (5 mL) was added a solution of 3-cyanophenylboronic acid (0.067 g, 0.46 mmol, 1.7 eq.), aqueous Na2CO3 (2.5 mL of a 2N solution, 5 mmol), and EtOH (2.5 mL). The resulting mixture was heated at 90° C. for 16 h then partitioned between EtOAc (20 mL) and 10% aqueous NaHCO3 (20 mL). The organic phase was separated and washed with 10% aqueous NaHCO3 (3×10 mL) and saturated brine (10 mL), dried over Na2SO4, filtered and concentrated by rotary evaporation. The crude residue was purified by flash column chromatography by eluting 10-20% EtOAc/hexane to give 1-(3-chloro-4-fluorophenyl)ureido-6-(3-cyanophenyl)-1′-benzyloxycarbonyl-spiro[indoline-3,4′-piperidine] as a yellowish oil (0.057 g, 0.097 mmol, 36%). 1H NMR (300 MHz, CD3OD): δ 7.23 to 8.31 (m, 15H), 5.27 (s, 2H), 4.32 (d, 2H), 4.21 (s, 2H), 3.17 (m, 2H), 1.98 (m, 2H), 1.82 (m, 2H).

reactant | 1-(3-chloro-4-fluorophenyl)ureido-6-bromo-1′-benzyloxycarbonyl-spiro[indoline-3,4′-piperidine] | ˜0.27 mmol | ClC=1C=C(C=CC1F)N(C(=O)N)C1N(CCC2(C1)CNC1=CC(=CC=C12)Br)C(=O)OCC1=CC=CC=C1 | C27H25BrClFN4O3
reactant | 3-cyanophenylboronic acid | 0.46 mmol, 0.067 g, 1.7 eq. | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 2.5 mL | CCO | C2H6O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.030 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(3-chloro-4-fluorophenyl)ureido-6-(3-cyanophenyl)-1′-benzyloxycarbonyl-spiro[indoline-3,4′-piperidine] | 0.097 mmol, 0.057 g, 36% | ClC=1C=C(C=CC1F)N(C(=O)N)C1N(CCC2(C1)CNC1=CC(=CC=C12)C1=CC(=CC=C1)C#N)C(=O)OCC1=CC=CC=C1 | C34H29ClFN5O3
